US07960369B2
N-isobutyl-4-phenyl-1,3-thiazol-2-amine
A mixture of 2-bromo-1-phenylethanone (4.0 g), N-isobutylthiourea (2.60 g) and N,N-dimethylformamide (15 mL) was stirred at room temperature for 1 hr. The reaction mixture was poured into saturated aqueous sodium hydrogencarbonate, and the mixture was extracted with ethyl acetate. The ethyl acetate layer was concentrated, and the residue was purified by silica gel column chromatography with ethyl acetate-hexane (gradient of 1:9 to 2:1 by volume ratio) to give the title compound (3.30 g, 71%) as a yellow oil.

reactant | 2-bromo-1-phenylethanone | 4.0 g | BrCC(=O)C1=CC=CC=C1 | C8H7BrO
reactant | N-isobutylthiourea | 2.60 g | C(C(C)C)NC(=S)N | C5H12N2S
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | N,N-dimethylformamide | 15 mL | CN(C=O)C | C3H7NO
product | N-isobutyl-4-phenyl-1,3-thiazol-2-amine | 3.30 g, 71% | C(C(C)C)NC=1SC=C(N1)C1=CC=CC=C1 | C13H16N2S
